US04665188
1.8 g of ethyl 6-(3-pyridylmethyl)-5,6,7,8-tetrahydro-2-naphthalenecarboxylate was mixed with 50 ml of 6 normal hydrochloric acid and the mixture was heated under reflux for 4 hours. The reaction mixture was concentrated to dryness in vacuo. The residue was recrystallized from methanol to give 1.04 g of 6-(3-pyridylmethyl)-5,6,7,8-tetrahydro-2-naphthalenecarboxylic acid hydrochloride as colorless crystals with m.p. 222°-226° C.

reactant | ethyl 6-(3-pyridylmethyl)-5,6,7,8-tetrahydro-2-naphthalenecarboxylate | 1.8 g | N1=CC(=CC=C1)CC1CC=2C=CC(=CC2CC1)C(=O)OCC | C19H21NO2
reactant | hydrochloric acid | Cl | ClH
product | 6-(3-pyridylmethyl)-5,6,7,8-tetrahydro-2-naphthalenecarboxylic acid hydrochloride | 1.04 g | Cl.N1=CC(=CC=C1)CC1CC=2C=CC(=CC2CC1)C(=O)O | InChI=1S/C17H17NO2.ClH/c19-17(20)16-6-5-14-9-12(3-4-15(14)10-16)8-13-2-1-7-18-11-13;/h1-2,5-7,10-12H,3-4,8-9H2,(H,19,20);1H
